US07566784B2
H) tert-Butyl 1-(4-aminophenyl)-1H-pyrrolo[3,2-c]pyridin-6-ylcarbamate
A mixture of tert-butyl 1-(4-nitrophenyl)-1H-pyrrolo[3,2-c]pyridin-6-ylcarbamate (35 mg, 0.10 mmol), zinc powder (80 mg), and NH4Cl (100 mg) in MeOH (3 mL) and THF (2 mL) was stirred at rt for 15 h. The mixture was diluted with EtOAc, filtered through a pad of Celite®. The filtrate was washed with brine, dried over MgSO4 and concentration in vacuo to afford the title compound as a solid (29 mg, 89%) was obtained. LC-MS: m/z 325 (M+H)+.

reactant | tert-butyl 1-(4-nitrophenyl)-1H-pyrrolo[3,2-c]pyridin-6-ylcarbamate | 0.10 mmol, 35 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C=CC=2C=NC(=CC21)NC(OC(C)(C)C)=O | C18H18N4O4
reactant | NH4Cl | 100 mg | [NH4+].[Cl-]
solvent | MeOH | 3 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc | 80 mg | [Zn] | Zn
product | tert-Butyl 1-(4-aminophenyl)-1H-pyrrolo[3,2-c]pyridin-6-ylcarbamate | 29 mg, 89% | NC1=CC=C(C=C1)N1C=CC=2C=NC(=CC21)NC(OC(C)(C)C)=O | C18H20N4O2
